US08492378B2
methyl 1-[4-(methylthio)phenyl]-1H-indole-6-carboxylate
In the same manner as in Reference Example 89 and using 1-bromo-4-(methylthio)benzene instead of methyl 2-chloroisonicotinate and methyl 1H-indole-6-carboxylate instead of 2-aminopyridine, the title compound (yield 47%) was obtained as colorless crystals.

reactant | 1-bromo-4-(methylthio)benzene | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | methyl 1H-indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
product | methyl 1-[4-(methylthio)phenyl]-1H-indole-6-carboxylate | yield 47% | CSC1=CC=C(C=C1)N1C=CC2=CC=C(C=C12)C(=O)OC | C17H15NO2S
